US04076709
In a glass autoclave, 8.6 g. of 4-chlorothiophene-3-carboxylic acid are dissolved in 23 ml. of water containing 2.1 g. of sodium hydroxide, whereupon a solution of 5.6 g. of sodium bisulfite in 16 ml. of water is added and the solution make just alkaline with a 30% sodium hydroxide solution. The solution is treated with 0.43 g. of copper (I) chloride and heated at 143° C. for 16 hours. After cooling, the red copper oxide is filtered off under suction. The filtrate is acidified with 7 ml. of concentrated hydrochloric acid and the unreacted starting material precipitates out, the latter being removed by shaking out with ether. The acidic solution is treated with 12 g. of potassium chloride while warming and, after cooling to 0° C, the potassium salt of 4-sulfothiophene-3-carboxylic acid separates as colorless crystals. The crystals are dissolved in 50 ml. of water and the solution passed through an ion-exchange column which is charged with protons, after which the column is rinsed with water until the solution flowing out has a pH value of 5. The eluate is evaporated to dryness in vacuo. There is obtained 4-sulfothiophene-3-carboxylic acid as a crystalline residue of melting point 154° C (recrystallization from water).

reactant | 4-chlorothiophene-3-carboxylic acid | ClC=1C(=CSC1)C(=O)O | C5H3ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
catalyst | copper (I) chloride | [Cu]Cl
solvent | water | O | H2O
solvent | water | 2.1 g | O | H2O
product | 4-sulfothiophene-3-carboxylic acid | S(=O)(=O)(O)C=1C(=CSC1)C(=O)O | C5H4O5S2
